US06518282B1
2-(Cyclohexyloxy)ethyl-4-methylbenzenesulfonate
To a solution of 2-(cyclohexyloxy)-1-ethanol (200 mg, 1.39 mmol) in pyridine (10 mL) at 0° C. was added p-toluenesulfonyl chloride (292 mg, 1.53 mmol) portionwise followed by 4-(dimethylamino)pyridine (a few crystals) and the mixture was stirred at room temperature for 16 hours. The solvent was removed in vacuo to give a crude residue that was partitioned between dichloromethane and 2N aqueous hydrochloric acid. The two layers were separated and the organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to give a yellow oil. This was purified by column chromatography on silica gel, eluting with dichloromethane, to give the title compound (226 mg, 54%) as a yellow oil.

reactant | 2-(cyclohexyloxy)-1-ethanol | 1.39 mmol, 200 mg | C1(CCCCC1)OCCO | C8H16O2
reactant | p-toluenesulfonyl chloride | 1.53 mmol, 292 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(Cyclohexyloxy)ethyl-4-methylbenzenesulfonate | 226 mg, 54% | C1(CCCCC1)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C15H22O4S
